US04371644
bis[2-hydroxy-3-(4-hydroxy-2,2,6,6-tetramethylpiperidino)propyl]phthalate (Compound No. 87)
A mixture of 20.0 g of 4-hydroxy-2,2,6,6-tetramethylpiperidine and 13.9 g of bis(2,3-epoxypropyl)phthalate was reacted following the procedure described in Example 5, to give the desired Compound No. 87 in the form of a white powder. The Compound had an Rf value of 0.24 on thin-layer chromatography on silica gel developed with a 20:4:2:1 by volume mixture of ethyl acetate, benzene, ethanol and triethylamine.

reactant | 4-hydroxy-2,2,6,6-tetramethylpiperidine | 20.0 g | OC1CC(NC(C1)(C)C)(C)C | C9H19NO
reactant | bis(2,3-epoxypropyl)phthalate | 13.9 g | O1C(COC(C=2C(C(=O)OCC3CO3)=CC=CC2)=O)C1 | C14H14O6
product | bis[2-hydroxy-3-(4-hydroxy-2,2,6,6-tetramethylpiperidino)propyl]phthalate | OC(COC(C=1C(C(=O)OCC(CN2C(CC(CC2(C)C)O)(C)C)O)=CC=CC1)=O)CN1C(CC(CC1(C)C)O)(C)C | C32H52N2O8
